US06489344B1
To a solution of Ph3P (11 g, 42 mmol) and CH2Cl2 (20 mL) at 23° C. was added DIAD (6.6 mL, 42 mmol) and the resulting yellow solution was maintained at 23° C. for 30 min. To this solution was added 2-(dimethylamino)-ethanol (4.2 mL, 42 mmol) and the resulting solution was maintained at 23° C. for 5 min. then added to a suspension of resin-bound {2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine (3.0 g, 2.1 mmol) and CH2C12 (30 mL). The resulting mixture was shaken at 23° C. for 12 h, filtered, washed with NMP, H2O and CH2C12 and air dried to yield polymer-bound [2-(dimethylamino)ethyl]{2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine.

reactant | Ph3P | 42 mmol, 11 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 42 mmol, 6.6 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 2-(dimethylamino)-ethanol | 42 mmol, 4.2 mL | CN(CCO)C | C4H11NO
reactant | {2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine | 2.1 mmol, 3.0 g | [N+](=O)([O-])C=1C=CC(=NC1)NCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C13H13N5O6S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | [2-(dimethylamino)ethyl]{2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine | CN(CCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCNC1=NC=C(C=C1)[N+](=O)[O-])C | C17H22N6O6S
